US06576645B1
(4-Chlorophenyl)-[4-(tetrahydropyranyloxy)phenyl]methanone
4-Chloro-4′-hydroxybenzophenone (50 g, 0.215 mol) is dissolved in dichloromethane (400 ml). 3,4-Dihydro-2H-pyran (21.7 g, 0.257 mol) and a catalytic amount of p-toluenesulfonic acid are added to the solution. The solution is stirred for 6 hours at room temperature and then allowed to stand over night. 1 N aqueous sodium hydroxide solution (100 ml) is added to the reaction mixture and stirred for 15 minutes. Organic layer is separated and washed twice with 1 N aqueous sodium hydroxide solution and once with water. Dichloromethane solution is dried and evaporated to dryness. Yield 68.6 g.

reactant | 4-Chloro-4′-hydroxybenzophenone | 0.215 mol, 50 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H9ClO2
reactant | 3,4-Dihydro-2H-pyran | 0.257 mol, 21.7 g | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydroxide | 1 N, 100 ml | [OH-].[Na+]
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | (4-Chlorophenyl)-[4-(tetrahydropyranyloxy)phenyl]methanone | ClC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OC1OCCCC1 | C18H17ClO3
